US08431596B2
[5-(1-Benzyl-1H-pyrazol-4-yl)-[1,2,4]triazolo[1,5-c]pyrimidin-2-yl]-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amine (YY-011)
In a microwave vial, 5-(1-benzyl-1H-pyrazol-4-yl)-[1,2,4]triazolo[1,5-c]pyrimidin-2-ylamine (0.05 g, 0.165 mmol), 1-(2-(4-bromophenoxy)ethyl)pyrrolidine (0.045 g, 0.215 mmol), bis(dibenzylideneacetone)palladium (0.005 g, 0.008 mmol), xantphos (0.01 g, 0.017 mmol) and sodium tert butoxide (0.032 g, 0.330 mmol) were added successively. 1,4-Dioxane (1.2 mL) and dimethylacetamide (4 drops) were added and the vial was sealed and heated in the microwave (130° C., 15 min). The mixture was filtered and purified by preparatory HPLC. LCMS method: 2, RT: 2.54 min; MI: 481 [M+1]. 1H NMR (DMSO) 9.70 (s, 1H), 8.92 (s, 1H), 8.49 (s, 1H), 8.20 (d, 2H), 7.54 (d, 2H), 7.32 (m, 3H), 6.92 (d, 2H), 5.50 (s, 2H), 4.09 (t, 2H), 2.78 (t, 2H), 2.52 (s, 4H), 1.64 (s, 4H).

reactant | 5-(1-benzyl-1H-pyrazol-4-yl)-[1,2,4]triazolo[1,5-c]pyrimidin-2-ylamine | 0.165 mmol, 0.05 g | C(C1=CC=CC=C1)N1N=CC(=C1)C1=NC=CC=2N1N=C(N2)N | C15H13N7
reactant | 1-(2-(4-bromophenoxy)ethyl)pyrrolidine | 0.215 mmol, 0.045 g | BrC1=CC=C(OCCN2CCCC2)C=C1 | C12H16BrNO
reactant | xantphos | 0.017 mmol, 0.01 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | sodium tert butoxide | 0.330 mmol, 0.032 g | CC(C)([O-])C.[Na+]
catalyst | dimethylacetamide | 4 drops | CC(=O)N(C)C | C4H9NO
catalyst | bis(dibenzylideneacetone)palladium | 0.008 mmol, 0.005 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
solvent | 1,4-Dioxane | 1.2 mL | O1CCOCC1 | C4H8O2
product | [5-(1-Benzyl-1H-pyrazol-4-yl)-[1,2,4]triazolo[1,5-c]pyrimidin-2-yl]-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amine | C(C1=CC=CC=C1)N1N=CC(=C1)C1=NC=CC=2N1N=C(N2)NC2=CC=C(C=C2)OCCN2CCCC2 | C27H28N8O
